US08026257B2
(±)-5-Bromo-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole.
To a suspension (±)-5-bromo-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole (33 mg, 0.076 mmol) and sodium cyanoborohydride (9.6 mg, 0.15 mmol) in acetonitrile (1 mL) was added formalin (50 μl) and one drop of acetic acid. The reaction was stirred at room temperature for 1 h, poured into water/diethyl ether, washed with 1M sodium hydroxide, then water, and concentrated. The crude residue was loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2M ammonia in methanol and concentrated. 1H-NMR (CDCl3, 500 MHz) δ 9.78 (bs, 1H), 7.89 (s, 1H), 7.73 (d, J=1.5, 1H), 7.25 (m, 2H), 7.10 (d, J=1.2, 1H), 7.05 (m, 2H), 4.49 (q, J=6.7, 1H), 3.39 (d, J=9.2, 1H), 3.25 (d, J=9.2, 1H), 2.60 (m, 1H), 2.53 (m, 1H), 1.95-2.32 (m, 5H), 2.21 (s, 3H), 1.92 (m, 1H), 1.41 (d, J=6.7, 3H); 13C NMR (126 MHz, CDCl3) δ ppm 162.5, 160.6, 135.9, 133.7, 128.7 (d, J=7.7), 128.0, 126.5, 125.5, 122.2, 115.6, 115.4, 113.5, 78.2, 51.9, 51.7, 46.2, 40.3, 32.8, 32.5, 22.2. Mass spec.: 445.93 (MH)+.

reactant | (±)-5-bromo-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole | 0.076 mmol, 33 mg | BrC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCNCC1)C1=CC=C(C=C1)F | C21H23BrFN3O
reactant | sodium cyanoborohydride | 0.15 mmol, 9.6 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 50 μl | C=O | CH2O
reactant | water diethyl ether | O.C(C)OCC
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | (±)-5-Bromo-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole | BrC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C22H25BrFN3O
